US06964965B2
A round bottom flask was charged with [PdCl2(dppf)][CH2Cl2] (0.0327 g, 0.044 mmol), potassium acetate (0.4397 g, 4.48 mmol) and bis(pinacolato)diboron (0.416 g, 1.64 mmol) under N2. Anhydrous DMSO (10 mL) and 5-bromo-6-methoxyindan-1-one (0.360 g, 1.49 mmol) were added. After stirring the mixture at 80° C. for 5 hrs, the reaction was cooled to 0° C. The brown solution was partitioned between ethyl acetate and H2O and separated. The organic layer was washed with water (2×5 mL), dried with MgSO4, filtered and concentrated to give 0.367 g of a brown oil. The crude oil was used without further purification. A round bottom flask fitted with a condenser and stir bar was charged with crude intermediate (0.310 mg, 1.10 mmol), 3,6-diethyl-N-(1-ethylpropyl)-5-iodopyrazin-2-amine (0.344 g, 0.90 mmol), [PdCl2(dppf)][CH2Cl2] (0.040 g, 0.055 mmol), potassium phosphate (0.934 g, 4.40 mmol), and anhydrous ethylene glycol dimethyl ether (3 mL) under N2. After stirring at 90° C. for 17 hours the reaction was cooled to ambient temperature, partitioned between ethyl acetate and water and the layers were separated. The organic layer was washed with water (3×10 mL), dried with MgSO4, filtered and concentrated to provide a yellow powder. The crude product was dissolved in a minimum amount of ethyl acetate, and purified via flash chromatography (20% ethyl acetate in heptane) to give 0.050 g (15%) 5-{3,6-diethyl-5-[(1-ethylpropyl)amino]pyrazin-2-yl}-6-methoxyindan-1-one as a yellow powder. 1H NMR (400 MHz, CDCl3) δ 7.42 (s, 1 H), 7.28 (s, 1 H), 4.10-4.20 (m, 2 H), 3.83 (s, 3 H), 3.10-3.20 (m, 2 H), 2.75-2.80 (m, 2 H), 2.69 (br s, 2 H), 2.35-2.60 (s, 2 H), 1.60-1.80 (m, 2 H), 1.50-1.55 (m, 2 H), 1.20-1.40 (m, 6 H), 0.99 (t, J=8 Hz, 6 H). MS (ESI+) for C23H31N3O2 m/z 382.2 (M+H)+. Anal. Calcd. for C23H31N3O2: C, 72.41; H, 8.19; N, 11.01. Found C, 72.20; H, 8.14; N, 10.80.

reactant | 3,6-diethyl-N-(1-ethylpropyl)-5-iodopyrazin-2-amine | 0.90 mmol, 0.344 g | C(C)C=1C(=NC(=C(N1)I)CC)NC(CC)CC | C13H22IN3
reactant | potassium phosphate | 4.40 mmol, 0.934 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-{3,6-diethyl-5-[(1-ethylpropyl)amino]pyrazin-2-yl}-6-methoxyindan-1-one | 0.050 g, 15% | C(C)C=1C(=NC(=C(N1)NC(CC)CC)CC)C=1C=C2CCC(C2=CC1OC)=O | C23H31N3O2
